US04920092
Para-vinylphenol was prepared as follows. 15.6 g of p-hydroxycinnamic acid were mixed to a slurry with 15 ml quinoline, 0.6 g copper turnings and 1.1 g hydroquinone. The mixture was heated by an oil bath at 200° C. for 15 minutes after which time the evolution of CO2 had almost ceased. The reaction mixture was then cooled and distilled under rotary pump vacuum, the fraction collected between 60° and 80° C. being p-vinylphenol and quinoline. (Bpt. Quinoline=114° C./15 mm Hg; p-vinylphenol=115° C./16 mm Hg). The distilled fraction was taken up into warm diethyl ether, the solution neutralised by successive washing of N HCl and distilled water and then dried by MgSO4. After removal of the solvent, the residue was redissolved by warm petroleum ether (40°-60° C.). On cooling 1.36 g of colourless, platey crystals were obtained. Yield=11.76%. These were recrystallised from the same solvent prior to copolymerisation.

reactant | p-hydroxycinnamic acid | 15.6 g | OC1=CC=C(C=CC(=O)O)C=C1 | C9H8O3
reactant | quinoline | 15 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | hydroquinone | 1.1 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | CO2 | C(=O)=O | CO2
catalyst | copper | 0.6 g | [Cu] | Cu
product | Para-vinylphenol | Yield=11.76% | C(=C)C1=CC=C(C=C1)O | C8H8O
